US07553842B2
Step B: Preparation of 4-(2-oxotetrahydrofuran-3-ylthio)benzyl 2,2,2-trichloroacetimidate:
1,8-Diazabicyclo[5.4.0]undec-7-ene (34 mg, 0.22 mmol) was added to a 0° C. solution of 3-(4-(hydroxymethyl)phenylthio)dihydrofuran-2(3H)-one (1.0 g, 4.5 mmol) and 2,2,2-trichloroacetonitrile (3.2 g, 22 mmol). The reaction was stirred for 1 hour, then directly chromatographed (3:7 ethyl acetate/hexanes) to provide the product as a viscous oil (1.6 g, 31%)

reactant | 3-(4-(hydroxymethyl)phenylthio)dihydrofuran-2(3H)-one | 4.5 mmol, 1.0 g | OCC1=CC=C(C=C1)SC1C(OCC1)=O | C11H12O3S
reactant | 2,2,2-trichloroacetonitrile | 22 mmol, 3.2 g | ClC(C#N)(Cl)Cl | C2Cl3N
catalyst | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 0.22 mmol, 34 mg | N12CCCCCC2=NCCC1 | C9H16N2
product | 4-(2-oxotetrahydrofuran-3-ylthio)benzyl 2,2,2-trichloroacetimidate | 1.6 g, 31% | ClC(C(OCC1=CC=C(C=C1)SC1C(OCC1)=O)=N)(Cl)Cl | C13H12Cl3NO3S
